US05317016
To a solution of (2S,4S)-1-p-methoxybenzyloxycarbonyl-4-tritylthiopyrrolidine-2-methanol methanesulfonate (27.81 g) in dimethylformamide (120 ml), a solution (12 ml) of sodium azide (3.50 g: 53.8 mmole) in water is added. The mixture is stirred at 80° C. for 8 hours. The reaction mixture is poured into ice water and extracted with ethyl acetate. The extract is successively washed with water and brine and concentrated. The residue is purified by silica gel column chromatography to give (2S,4S)-1-p-methoxybenzyloxycarbonyl-2-azidomethyl-4-tritylthiopyrrolidine (17.27 g: 30.64 mmole). Total yield of Steps 4 and 5: 74%. NMR δ(CDCl3) ppm: 3.84(s, 3H), 4.82 to 5.15(m, 2H). IR ν (CHCl3) cm-1 : 2105, 1685.

reactant | (2S,4S)-1-p-methoxybenzyloxycarbonyl-4-tritylthiopyrrolidine-2-methanol methanesulfonate | 27.81 g | CS(=O)(=O)OC[C@H]1N(C[C@H](C1)SC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C(=O)OCC1=CC=C(C=C1)OC | C34H35NO6S2
reactant | sodium azide | 53.8 mmole, 12 ml, 3.50 g | [N-]=[N+]=[N-].[Na+]
solvent | dimethylformamide | 120 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | (2S,4S)-1-p-methoxybenzyloxycarbonyl-2-azidomethyl-4-tritylthiopyrrolidine | 30.64 mmole, 17.27 g | COC1=CC=C(COC(=O)N2[C@@H](C[C@@H](C2)SC(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)CN=[N+]=[N-])C=C1 | C33H32N4O3S
